US05476952
2,3-Dihydro-4-hydroxymethyl-1H-cyclopent[a]anthracene-6,11dione:
A mixture of 2,3-dihydro-4-acetoxymethyl-1H-cyclopent[a]anthracene-6,11-dione (74 mg, 0.23 mmol) in MeOH (12 mL) containing H2O (3mL) and triethylamine (2mL) is heated at 55° C. for 3 hours. The mixture is evaporated in vacuo, and the residue is coevaporated twice with EtOH (10 mL) to dryness. The residue is recrystallized from CHCl3 to give2,3-dihydro-4-hydroxymethyl-1H-cyclopent[a]anthracene-6,11-dione, 48 mg (75%), mp 191°-192° C. 1H NMR (DMSO-d6): δ2.14 (2H, q, J=7.6 Hz, CH2 -2), 2.88 (2H, t, J=7.6 Hz, CH2 -3), 3.40 (2H, t, J=7.6 Hz, CH2 -1), 4.61 (2H, d, J=5.5 Hz, CH2 --OH), 5.53 (1 H, t, J=5.5 Hz, OH), 7.90-8.18 (5H, m, Ar--H). Anal. Calc'd for C18H14O3 : C, 77.68; H, 5.07. Found: C, 77.70; H, 5.06.

reactant | 2,3-dihydro-4-acetoxymethyl-1H-cyclopent[a]anthracene-6,11-dione | 0.23 mmol, 74 mg | C(C)(=O)OCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C20H16O4
reactant | H2O | 3mL | O | H2O
reactant | triethylamine | 2mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 12 mL | CO | CH4O
product | 2,3-Dihydro-4-hydroxymethyl-1H-cyclopent[a]anthracene-6,11dione | OCC1=C2C(=C3C(C4=CC=CC=C4C(C3=C1)=O)=O)CCC2 | C18H14O3
